US06232290B1
To a solution of 4-n-butyloxybenzoic acid benzotriazol-1-yl ester (15 g) in N,N-dimethylformamide (100 ml) was added thiosemicarbazide (5.27 g) and the mixture was stirred for 12 hours at ambient temperature. The reaction mixture was pulverized with diisopropyl ether. The precipitate was collected by filtration to give 1-(4-n-butyloxybenzoyl)thiosemicarbazide (11.51 g).

reactant | 4-n-butyloxybenzoic acid benzotriazol-1-yl ester | 15 g | N1(N=NC2=C1C=CC=C2)OC(C2=CC=C(C=C2)OCCCC)=O | C17H17N3O3
reactant | thiosemicarbazide | 5.27 g | NNC(=S)N | CH5N3S
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 1-(4-n-butyloxybenzoyl)thiosemicarbazide | 11.51 g | C(CCC)OC1=CC=C(C(=O)NNC(=S)N)C=C1 | C12H17N3O2S
